US08669234B2
(1-{6-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Title compound was prepared according to the method employed to prepare (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester from (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example AY), substituting (1-{6-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester.

reactant | (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H26N4O3
reactant | (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
product | (1-{6-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C24H28N4O3
